US06090833
9.5 g of 5-bromoindan-1-one and 4.93 g of CuCN are suspended in 10 ml of dimethylformamide and the mixture is refluxed for 4 hours. A solution of 18 g of iron(III) chloride in 5 ml of conc. hydrochloric acid with 30 ml of water is added dropwise with stirring to the cooled, dark-brown, viscous suspension and the mixture is then stirred at 70° C. for 30 minutes. The reaction mixture is extracted three times by shaking with 50 ml of toluene, and the combined organic phases are extracted by shaking with 50 ml of 2N hydrochloric acid and 50 ml of 2N sodium hydroxide solution and then washed with water until neutral. The toluene extract is dried over magnesium sulfate and concentrated in vacuo, and the residue is recrystallized from n-heptane. 1-Oxoindan-5-carbonitrile of melting point 123-125° C. is obtained.

reactant | 5-bromoindan-1-one | 9.5 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | CuCN | 4.93 g | C(#N)[Cu]
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 5 ml | Cl | ClH
catalyst | iron(III) chloride | 18 g | [Fe](Cl)(Cl)Cl
product | 1-Oxoindan-5-carbonitrile | O=C1CCC2=CC(=CC=C12)C#N | C10H7NO
